US07777047B2
N-(2-{5-[2-(4-hydroxypiperidino)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-2-methoxy-N-methylbenzenesulfonamide
To a mixture of (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (150 mg), 4-hydroxypiperidine (43 mg), 1H-1,2,3-benzotriazol-1-ol (67 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (94 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=100:0-90:10), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (131 mg, yield 74%) as colorless prism crystals. MS: 543 (MH+). melting point 166-167° C.

reactant | (2-{7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 150 mg | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)C | C21H21N3O5S2
reactant | 4-hydroxypiperidine | 43 mg | OC1CCNCC1 | C5H11NO
reactant | 1H-1,2,3-benzotriazol-1-ol | 67 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 94 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-(2-{5-[2-(4-hydroxypiperidino)-2-oxoethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-2-methoxy-N-methylbenzenesulfonamide | 131 mg, yield 74% | OC1CCN(CC1)C(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=C(C=CC=C1)OC)C)=O | C26H30N4O5S2
